US07199265B2
Ethyl(3,5-dichloro-4-[4-amino-3-bromophenoxy]phenyl) cinnamate (70 mg) was coupled with isobutyryl chloride (30 mg), using the method described in Example 1(h). After purification on column (silica gel, ethyl acetate/petrolium ether, 1:9), 70 mg of ethyl(3,5-dichloro-4-[3-bromo-4-isobutyramidophenoxy]phenyl) acetate was obtained, which was hydrolysed using the method described in Example 1(i). This gave 50 mg of 3,5-dichloro-4-(3-bromo-4-isobutyramidophenoxy)phenylacetic acid.

reactant | Ethyl(3,5-dichloro-4-[4-amino-3-bromophenoxy]phenyl) cinnamate | 70 mg | C(C=CC1=CC=CC=C1)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC(=C(C=C1)N)Br)Cl)CC | C23H18BrCl2NO3
reactant | isobutyryl chloride | 30 mg | C(C(C)C)(=O)Cl | C4H7ClO
product | ethyl(3,5-dichloro-4-[3-bromo-4-isobutyramidophenoxy]phenyl) acetate | 70 mg | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC(=C(C=C1)NC(C(C)C)=O)Br)Cl)CC | C20H20BrCl2NO4
